US06610688B2
To a suspension of 5-formyl-4-methyl-1H-pyrrole-2-carboxylic acid (2 g, 13 mmol) in acetonitrile was added 4-(2-aminoethyl)morpholine (1.9 mL, 14 mmol), EDC (2.7 g, 14 mmol), HOBt (1.9 g, 14 mmol) and triethylamine (3.6 mL, 26 mmol) sequentially. The reaction mixture was stirred at room temperature for 12 hours and concentrated at reduced pressure. The residue was dissolved in 300 mL of 1N hydrogen chloride solution. The aqueous layer was washed with 150 mL of ethyl acetate twice and basified with sodium bicarbonate. The product was then extracted with 250 mL of dichloromethane twice, dried over MgSO4, and concentrated to afford 1.8 g (53%) of 5-formyl-4-methyl-1H-pyrrole-2-carboxylic acid (2-morpholin4-yl-ethyl)-amide as a yellowish solid. 1H NMR (300 MHz, DMSO-d6) δ 12.19 (br s, 1H, NH), 9.72 (s, 1H, CHO), 8.29 (br t, J=6.6 Hz, 1H, CONH), 6.65 (d, J=1.7 Hz, 1H), 3.5 (m, 4H), 3.3 (m, 2H, CONHCH2), 2.4 (m, 6H), 2.28 (s, 3H, CH3). MS m/z 265 [M+].

reactant | 5-formyl-4-methyl-1H-pyrrole-2-carboxylic acid | 13 mmol, 2 g | C(=O)C1=C(C=C(N1)C(=O)O)C | C7H7NO3
reactant | 4-(2-aminoethyl)morpholine | 14 mmol, 1.9 mL | NCCN1CCOCC1 | C6H14N2O
reactant | EDC | 14 mmol, 2.7 g
reactant | HOBt | 14 mmol, 1.9 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 26 mmol, 3.6 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-formyl-4-methyl-1H-pyrrole-2-carboxylic acid (2-morpholin4-yl-ethyl)-amide | 1.8 g, 53% | N1(CCOCC1)CCNC(=O)C=1NC(=C(C1)C)C=O | C13H19N3O3
